* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1679.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N002 30K
R2 0 N005 30K
R3 N002 N001 1K
R4 N005 N007 1K
R5 N001 N003 3.4K
R6 N006 N007 3.4K
R7 N003 N004 100
R8 N004 N006 100
V3 IN- IN+ SINE(0 10m 1K)
V4 IN+ 0 SINE(0 1 100)
X§U1 IN+ N006 N007 +V -V LT1678
X§U2 N005 N002 OUT +V -V LT1678
X§U3 N004 SHEILD SHEILD +V -V LT1678
X§U4 IN- N003 N001 +V -V LT1678
.tran 30m
* Instrumentation Amplifier with Shield Driver
.lib LTC2.lib
.backanno
.end
